### PR TITLE
Add Selfridge's conjectures

### PR DESCRIPTION
**Pull request by Reklle**

### CODE REVIEW

File: FormalConjectures/Wikipedia/Selfridge.lean [hunk 1]
```diff
@@ -0,0 +1,67 @@
...
+/-!
+# Selfridge's conjectures about primality testing
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/John_Selfridge#Selfridge's_conjecture_about_primality_testing)
+-/
+
+def selfridge_test.variants.i (p : ℕ) : Prop :=
+  Odd p ∧ (p ≡ 2 [MOD 5] ∨ p ≡ 3 [MOD 5]) ∧ 2^(p-1) ≡ 1 [MOD p] ∧ (p+1).fib ≡ 0 [MOD p]
+
+def selfridge_test.variants.ii (p : ℕ) : Prop :=
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Selfridge.lean]: It would be worth having some docstrings here for each definition. I'd also suggest added a few test test statements (e.g. small values of `p` that satisfy these predicates, if possible)

File: FormalConjectures/Wikipedia/Selfridge.lean [hunk 2]
```diff
@@ -0,0 +1,67 @@
...
+    p.Prime := by
+  sorry
+
+/--
+There is a counterexample to the second version of Selfridge's test.
+-/
+@[category research solved, AMS 11]
+theorem counter_selfridge_conjecture :
+    ∃ n : ℕ, selfridge_test.variants.ii n ∧ ¬ n.Prime := by
+  use 6601
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Selfridge.lean]: This certainly works - I'd however be tempted to formalise the stronger statement that `6601` is a counterexample (since currently the statement doesn't incorporate that information)

File: FormalConjectures/Wikipedia/Selfridge.lean [hunk 3]
```diff
@@ -0,0 +1,67 @@
...
+Known terms: 1, 1, 1, 1, 1, 2, 2, 2, 2, 3, 4, 5
+-/
+noncomputable def selfridgeSeq (n : ℕ) : ℕ :=
+  n.fermatNumber.primeFactors.card
+
+/--
+Selfridge conjectured that `selfridgeSeq` is not monotonic.
+-/
+theorem selfridge_seq_conjecture :
+    (∀ n : ℕ, selfridgeSeq n ≤ selfridgeSeq (n+1))  ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Selfridge.lean]: Here the conjecture isn't stated as a question, so it would make sense to formalise it as the negation of your current LHS.

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the PR!

File: FormalConjectures/Wikipedia/Selfridge.lean [hunk 4]
```diff
@@ -0,0 +1,147 @@
...
+/--
+Selfridge's test variant:
+Let $p$ be an odd number, with $p \equiv \pm 1 \pmod{5}$, $2^{p-1} \equiv 1 \pmod{p}$
+and $F_{p-1} \equiv 0 \pmod{p}$, then $p$ is a prime number.
+
+The number $6601$ is a conterexample to this test satisfying $6601 ≡ 1 \mod 5$
+-/
+@[category high_school, AMS 11]
+theorem selfridge_conjecture.variants.pseudo_counterexample :
+    IsPseudoSelfridge 6601 ∧ ¬ (6001).Prime ∧ 6001 ≡ 1 [MOD 5] := by
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Selfridge.lean]: typo?
```suggestion
    IsPseudoSelfridge 6601 ∧ ¬ (6601).Prime ∧ 6601 ≡ 1 [MOD 5] := by
```

File: FormalConjectures/Wikipedia/Selfridge.lean [hunk 5]
```diff
@@ -0,0 +1,147 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Selfridge's conjectures
+
+*Reference:* [Wikipedia](https://en.wikipedia.org/wiki/John_Selfridge#Selfridge's_conjecture_about_primality_testing)
+-/
+
+namespace Selfrige
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Selfridge.lean]:
```suggestion
namespace Selfridge
```

File: FormalConjectures/Wikipedia/Selfridge.lean [hunk 6]
```diff
@@ -0,0 +1,147 @@
...
+65537.
+-/
+@[category research open, AMS 11]
+theorem selfridge_seq_conjecture.variants.sufficient_condition (n : ℕ) (hn : Prime n.fermatNumber)
+    (hn' : n ≥ 5) : type_of% selfridge_seq_conjecture := by
+  sorry
+
+end FermatNumbers
+
+end Selfrige
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Selfridge.lean]:
```suggestion
end Selfridge
```

File: FormalConjectures/Wikipedia/Selfridge.lean [hunk 7]
```diff
@@ -0,0 +1,147 @@
...
+3. `2^(p-1) ≡ 1 (mod p)`
+4. `(p+1).fib ≡ 0 (mod p)`
+
+
+This is the condition that is tested in the PSW conjecture.
+Note: this is non-standard terminology. -/
+@[mk_iff]
+structure IsSelfridge (p : ℕ) where
+  is_odd : Odd p
+  mod_5 : (p ≡ 2 [MOD 5] ∨ p ≡ 3 [MOD 5])
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Selfridge.lean]: nit: can remove parens here
```suggestion
  mod_5 : p ≡ 2 [MOD 5] ∨ p ≡ 3 [MOD 5]
```

File: FormalConjectures/Wikipedia/Selfridge.lean [hunk 8]
```diff
@@ -0,0 +1,147 @@
...
+
+
+This is a variant of the condition that is tested in the PSW conjecture, and appears in the
+wiki page mentioned above.
+
+Note: this is non-standard terminology. -/
+@[mk_iff]
+structure IsPseudoSelfridge (p : ℕ) where
+  is_odd : Odd p
+  mod_5 : (p ≡ 1 [MOD 5] ∨ p ≡ 4 [MOD 5])
```
Comment (smmercuri) [inline FormalConjectures/Wikipedia/Selfridge.lean]:
```suggestion
  mod_5 : p ≡ 1 [MOD 5] ∨ p ≡ 4 [MOD 5]
```

**Review by smmercuri — APPROVED** [review]
nice!

**Comment by Reklle** [comment]
@smmercuri, thank you so much!
